US07265109B2
4-(3-Dimethylaminomethylene-thioureidomethyl)-piperidine-1-carboxylic acid tert-butyl ester
A solution of 17.7 g (82.6 mmol) 4-aminomethyl-piperidine-1-carboxylic acid tert-butyl ester (commercially available) in 150 ml THF was treated with 11.1 ml (82.6 mmol) benzoyl isothiocyanate and stirred for 1 h at room temperature. After evaporation of the solvents the residue was taken up in 100 ml MeOH and treated with 34.2 g (248 mmol) potassium carbonate in 100 ml water. After stirring the mixture for 16 h at room temperature all volatiles were removed and the residue extracted with ethyl acetate. The combined organic layers were washed with saturated NaHCO3 solution and dried with MgSO4. After evaporation of the volatiles 88.1 ml (661 mmol) N,N-dimethylformamide dimethyl acetal was added and the mixture was heated to 110° C. for 16 h. The precipitate was filtered off, washed with n-hexane and dried to yield 21.5 g (79%) of the title compound as pink amorphous solid.

reactant | 4-aminomethyl-piperidine-1-carboxylic acid tert-butyl ester | 82.6 mmol, 17.7 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CN | C11H22N2O2
reactant | benzoyl isothiocyanate | 82.6 mmol, 11.1 ml | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
reactant | potassium carbonate | 248 mmol, 34.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide dimethyl acetal | 661 mmol, 88.1 ml | COC(N(C)C)OC | C5H13NO2
solvent | THF | 150 ml | C1CCOC1 | C4H8O
solvent | water | 100 ml | O | H2O
product | 4-(3-Dimethylaminomethylene-thioureidomethyl)-piperidine-1-carboxylic acid tert-butyl ester | 21.5 g, 79% | C(C)(C)(C)OC(=O)N1CCC(CC1)CNC(=S)N=CN(C)C | C15H28N4O2S
